US07795283B2
iii) Benzyl [4-(trans-4-{[(tert-butoxycarbonyl)amino]methyl}cyclohexyl)phenyl]carbamate
To a suspension of [trans-4-(4-{[(benzyloxy)carbonyl]amino}phenyl)cyclohexyl]acetic acid (516 mg, 1.40 mmol) in tert-butanol (3 mL) under an inert atmosphere was added triethylamine (0.45 mL, 3.23 mmol) and diphenyl phosphorylazide (0.70 mL, 3.23 mmol) and the mixture heated to 80° C. for 24 hours. Upon cooling the mixture was partitioned between EtOAc (100 mL) and H2O (20 mL). The aqueous phase was further extracted with DCM (2×20 mL) and the combined organics dried (MgSO4), filtered and evaporated. Purification by chromatography through silica gave the title compound (525 mg, 86%) as a white solid. 1H NMR (CDCl3) δ 0.96-1.07 (2H, m), 1.30-1.44 (12H, m), 1.78-1.85 (4H, m), 2.33-2.39 (1H, m), 2.94 (2H, t), 4.52 (1H, s), 5.12 (2H, s), 6.51 (1H, s), 7.04-7.07 (2H, m), 7.19-7.34 (7H, m)

reactant | [trans-4-(4-{[(benzyloxy)carbonyl]amino}phenyl)cyclohexyl]acetic acid | 1.40 mmol, 516 mg | C(C1=CC=CC=C1)OC(=O)NC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)CC(=O)O | C22H25NO4
reactant | triethylamine | 3.23 mmol, 0.45 mL | C(C)N(CC)CC | C6H15N
reactant | diphenyl phosphorylazide | 3.23 mmol, 0.70 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | tert-butanol | 3 mL | C(C)(C)(C)O | C4H10O
product | Benzyl [4-(trans-4-{[(tert-butoxycarbonyl)amino]methyl}cyclohexyl)phenyl]carbamate | 525 mg, 86% | C(C)(C)(C)OC(=O)NC[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)NC(OCC1=CC=CC=C1)=O | C26H34N2O4
